US06465505B1
Synthesis of 4-(2,6-dimethylbenzyloxy)-2-methylbenzimidazole
4-hydroxy-2-methylbenzimidazole (0.59 g, 4 mmol) was dissolved in acetonitrile (15 ml). To the solution were added 2,6-dimethylbenzylchloride (0.52 g, 4 mmol) and sodium hydroxide (0.16 g, 4 mmol) (dissolved in 1 ml water) and the reaction mixture was refluxed for 2 h. The solvent was evaporated under reduced pressure and the residue was dissolved in methylene chloride and was washed with 2 M NaOH. The organic layer was separated, dried over sodium sulfate and evaporated under reduced pressure. The oily residue was purified by column chromatography on silica gel. The product was eluted with methylene chloride containing 5% methanol. Crystallization from acetonitrile gave 0.18 g (18%) of the title compound.

reactant | 4-hydroxy-2-methylbenzimidazole | 4 mmol, 0.59 g | OC1=CC=CC=2N=C(NC21)C | C8H8N2O
reactant | 2,6-dimethylbenzylchloride | 4 mmol, 0.52 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | sodium hydroxide | 4 mmol, 1 ml, 0.16 g | [OH-].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-(2,6-dimethylbenzyloxy)-2-methylbenzimidazole | 0.18 g, 18% | CC1=C(COC2=CC=CC=3N=C(NC32)C)C(=CC=C1)C | C17H18N2O
